US04571345
Ethyl 2-methylcyclohexanecarboxylate (50 g, 0.295 mmole) was added to a solution of potassium hydroxide (27 g, 0.48 mole) in anhydrous methanol (300 ml). The mixture was stirred overnight at room temperature and then evaporated to dryness under reduced pressure. The residue was redissolved in water and the solution extracted with ether (3×200 ml), then acidified (pH<2), and re-extracted with ether (3×200 ml). The final, combined organic extracts were washed with water, dried (MgSO4) and evaporated under reduced pressure to yield 2-methylcyclohexanecarboxylic acid. The crude product was converted to the acid chloride by treatment with excess thionyl chloride (100 ml) at room temperature for 30 minutes. The thionyl chloride was evaporated under reduced pressure and the residue distilled in vacuo to give 2-methylcyclohexanecarboxyl chloride (33 g).

reactant | Ethyl 2-methylcyclohexanecarboxylate | 0.295 mmole, 50 g | CC1C(CCCC1)C(=O)OCC | C10H18O2
reactant | potassium hydroxide | 0.48 mole, 27 g | [OH-].[K+]
solvent | methanol | 300 ml | CO | CH4O
product | 2-methylcyclohexanecarboxylic acid | CC1C(CCCC1)C(=O)O | C8H14O2
